US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with 4-chloromethylbiphenyl (10.25 g), a 2M ethanolic solution of sodium ethylate (25 cc) and ethyl 2-mercaptoacetate (6.1 g) in ethanol (150 cc). Ethyl (4-phenylbenzylthio)acetate (13.1 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | 4-chloromethylbiphenyl | 10.25 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
reactant | sodium ethylate | 25 cc | CC[O-].[Na+]
reactant | ethyl 2-mercaptoacetate | 6.1 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | Ethyl (4-phenylbenzylthio)acetate | 13.1 g | C1(=CC=CC=C1)C1=CC=C(CSCC(=O)OCC)C=C1 | C17H18O2S
